US07314872B2
To a stirring suspension of (S)-cyclohexyl lactic acid (558 mg, 3.42 mmol) in CH2Cl2 was added 2-(5-fluoro-2,3-dihydro-indol-1-yl)-ethylamine (616 mg, 3.42 mmol), HATU (1.429 g, 3.76 mmol), and DIEA (1.79 mL, 10.3 mmol). The reaction mixture was stirred at room temperature for several hours until the starting material had disappeared by LCMS. Ethyl acetate (100 mL) was added and the solution was washed with 1M NaHSO4 (2×100 mL), sat'd aq NaHCO3 (2×100 mL) and brine (1×100 mL). The solvent was removed in vacuo and the crude material was purified by silica gel chromatography (hexanes/EtOAc) to afford 320 mg of 3-Cyclohexyl-N-[2-(5-fluoro-2,3-dihydro-indol-1-yl)-ethyl]-2-(S)-hydroxy-propionamide as a white powder.

reactant | (S)-cyclohexyl lactic acid | 3.42 mmol, 558 mg | C1(CCCCC1)[C@@](C(=O)O)(O)C | C9H16O3
reactant | 2-(5-fluoro-2,3-dihydro-indol-1-yl)-ethylamine | 3.42 mmol, 616 mg | FC=1C=C2CCN(C2=CC1)CCN | C10H13FN2
reactant | HATU | 3.76 mmol, 1.429 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 10.3 mmol, 1.79 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | Ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-Cyclohexyl-N-[2-(5-fluoro-2,3-dihydro-indol-1-yl)-ethyl]-2-(S)-hydroxy-propionamide | 320 mg | C1(CCCCC1)C[C@@H](C(=O)NCCN1CCC2=CC(=CC=C12)F)O | C19H27FN2O2
